US06559173B1
3-[(4-Bromo-5-phenyl-1H-pyrazol-3-ylamino)-methylene]-4-methyl-1,3-dihydro-indol-2-one
The named compound is prepared by substituting E & Z-3-[(hydroxy)-methylene]-4-methyl-1,3-dihydro-indol-2-one for E & Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one and 4-bromo-5-phenyl-1H-pyrazol-3-ylamine for 3-aminopyrazole in the reaction of Example 1. Specifically, E & Z-3-[(hydroxy)-methylene]-4-methyl-1,3-dihydro-indol-2-one (0.1622 gms.) is reacted with 0.4530 gms. of 4-bromo-5-phenyl-1H-pyrazol-3-ylamine by refluxing in tetrahydrofuran (3.0 mL).

reactant | Z-3-[(hydroxy)-methylene]-4-methyl-1,3-dihydro-indol-2-one | O\C=C\1/C(NC2=CC=CC(=C12)C)=O | C10H9NO2
reactant | Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one | O\C=C\1/C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | 4-bromo-5-phenyl-1H-pyrazol-3-ylamine | BrC=1C(=NNC1C1=CC=CC=C1)N | C9H8BrN3
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | Z-3-[(hydroxy)-methylene]-4-methyl-1,3-dihydro-indol-2-one | 0.1622 gms | O\C=C\1/C(NC2=CC=CC(=C12)C)=O | C10H9NO2
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
product | 3-[(4-Bromo-5-phenyl-1H-pyrazol-3-ylamino)-methylene]-4-methyl-1,3-dihydro-indol-2-one | BrC=1C(=NNC1C1=CC=CC=C1)NC=C1C(NC2=CC=CC(=C12)C)=O | C19H15BrN4O
